US06693123B2
To a solution of 4-methyl-2-phenylbenzoic acid methyl ester (1.83 g, 8.09 mmol), prepared as in Example 227A, in methanol (16 mL) was added aqueous 4N sodium hydroxide (5 mL) and the reaction mixture was stirred for 60 hours, after which additional aqueous 4N sodium hydroxide (5 mL) was added and the mixture was heated at reflux for 5 hours. The reaction mixture was cooled to ambient temperature and the methanol was evaporated in vacuo. The aqueous residue was acidified with 4N sulfuric acid and extracted with ethyl acetate (3×). The combined organic extracts were dried, filtered, and concentrated in vacuo to give 4-methyl-2-phenylbenzoic acid (1.67 g) as a white solid.

reactant | 4-methyl-2-phenylbenzoic acid methyl ester | 8.09 mmol, 1.83 g | COC(C1=C(C=C(C=C1)C)C1=CC=CC=C1)=O | C15H14O2
reactant | sodium hydroxide | 4N, 5 mL | [OH-].[Na+]
reactant | sodium hydroxide | 4N, 5 mL | [OH-].[Na+]
solvent | methanol | 16 mL | CO | CH4O
product | 4-methyl-2-phenylbenzoic acid | 1.67 g | CC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C14H12O2
